US06140317
4-(6-Chloro-2.3-dihydroindol-1-yl)-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine
This product is prepared in a manner analogous to that described in Example 1 from 4-chloro-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine and 6-chloro-2,3-dihydroindole (1.1 equi-valents, see J. Org. Chem. 55(2), 580-584 (1990); CAS Reg. No. 52 537-00-5).

reactant | 4-chloro-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2C)C | C8H8ClN3
reactant | 6-chloro-2,3-dihydroindole | ClC1=CC=C2CCNC2=C1 | C8H8ClN
product | 4-(6-Chloro-2.3-dihydroindol-1-yl)-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine | ClC1=CC=C2CCN(C2=C1)C=1C2=C(N=CN1)NC(=C2C)C | C16H15ClN4
